US05359068
2,5-Dichloro-4-(2-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]ethenyl)-nitrobenzene
2,5-Dichloro-4-(2-dimethylaminoethenyl)-nitrobenzene (15 g, 0.057 mol) and 4-(1,2-benzisothiazol-3-yl)-piperazine (18.9 g, 0.086 mol) were combined in acetic acid (150 ml) and stirred overnight at room temperature under a nitrogen atmosphere. The slurry was poured slowly into a mixture of hexanes (300 ml) and isopropanol (300 ml) with stirring. The product was isolated by filtration as a brick red solid and washed with hexanes. The yield was 23.4 g, 93%; mp 194°-5° C. NMR (CDCl3) δ 8.05 (s, 1), 7.95-7.80 (m, 2), 7.56-7.35 (m, 3), 7.01 (d, 1), 5.60 (d, 1), 3.95-3.46 (m, 8). Analysis Calculated for C19H16N4O2Cl2S: C, 52.41; H, 3.70; N, 12.87. Found: C, 52.05; H, 3.36; N, 12.58.

reactant | 2,5-Dichloro-4-(2-dimethylaminoethenyl)-nitrobenzene | 0.057 mol, 15 g | ClC1=C(C=C(C(=C1)C=CN(C)C)Cl)[N+](=O)[O-] | C10H10Cl2N2O2
reactant | 4-(1,2-benzisothiazol-3-yl)-piperazine | 0.086 mol, 18.9 g | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2,5-Dichloro-4-(2-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]ethenyl)-nitrobenzene | ClC1=C(C=C(C(=C1)C=CN1CCN(CC1)C1=NSC2=C1C=CC=C2)Cl)[N+](=O)[O-] | C19H16Cl2N4O2S
